US08980904B2
(2) Preparation of 4-(3-chloro-4-methoxybenzyloxy)-2-(methylsulfinyl)-N-(4-fluorobenzyl)pyrimidine-5-carboxamide
4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)-N-(4-fluorobenzyl)pyrimidine-5-carboxamide (206 mg, 0.46 mmol) was dissolved in 20 mL dichloromethane, m-CPBA (80 mg, 0.46 mmol) was added and reacted at room temperature for 12 h, the reaction solution was washed with water after the reaction is complete, extracted with dichloromethane, the organic layer was dried, dried by rotation to obtain yellow solid, the product was directly used in the next reaction without purification.

reactant | 4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)-N-(4-fluorobenzyl)pyrimidine-5-carboxamide | 0.46 mmol, 206 mg | ClC=1C=C(COC2=NC(=NC=C2C(=O)NCC2=CC=C(C=C2)F)SC)C=CC1OC | C21H19ClFN3O3S
reactant | m-CPBA | 0.46 mmol, 80 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-(3-chloro-4-methoxybenzyloxy)-2-(methylsulfinyl)-N-(4-fluorobenzyl)pyrimidine-5-carboxamide | ClC=1C=C(COC2=NC(=NC=C2C(=O)NCC2=CC=C(C=C2)F)S(=O)C)C=CC1OC | C21H19ClFN3O4S
